US05219852
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-5-methyl-thiazol-4-yl)morpholine
Prepared by analogy to Example 32 by reaction of 4.2 g (0.0146 mol) of 2-trifluoromethyl-5-methyl-4-bromoacetyl-thiazole with 8 g (0.03 mol) of N-(2-hydroxyethyl)-2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine in methylene chloride by stirring at room temperature for 20 hours and heating under reflux for 2 hours. The reduction is carried out in 28 ml of trifluoroacetic acid using 2.4 g (0.02 mol) of triethylsilane. The crude product is purified on a silica gel column using toluene/ethyl acetate=7:3 as eluant.

reactant | 2-trifluoromethyl-5-methyl-4-bromoacetyl-thiazole | 0.0146 mol, 4.2 g | FC(C=1SC(=C(N1)C(CBr)=O)C)(F)F | C7H5BrF3NOS
reactant | N-(2-hydroxyethyl)-2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine | 0.03 mol, 8 g | OCCNC(CC1=CC=C(C=C1)OCC(=O)OC)C | C14H21NO4
reactant | trifluoroacetic acid | 0.02 mol, 28 ml, 2.4 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-5-methyl-thiazol-4-yl)morpholine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1C)C(F)(F)F | C21H25F3N2O4S
